2133-08-11 10:07:00 Physician Attending Progress Note
Chief Complaint: hematuria/urethral bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F with htn, a-fib, [**Doctor Last Name **] ds now hypothyroid, myelodysplastic
   syndrome, cri, presents with probable urethral bleed  7 days after
   urethral polyp excision in context of restarting plavix 2 days ago.
   24 Hour Events:
 URINE CULTURE - At [**2133-8-11**] 03:48 AM
 NASAL SWAB - At [**2133-8-11**] 03:48 AM
   Pelvic u/s in ed with hematoma.  Seen by uro gyn and urology. No
   evidence of fistula or vaginal bleeding by exam. Foley cath placed with
   irrigation of large amt clot.
   Transiently hypotensive to 80/40 in setting of recurrent bleeding with
   subsequent hct drop to 20 from 25.  Given 1 unit prbcs and transferred
   to [**Hospital Unit Name 1**] for further management.  Received empiric cipro given GI
   manipulation--> u/a returned grossly pos.  Transfused additional 1 unit
   prbc since arrival.
   History obtained from Patient, ho
   Allergies:
   Amoxicillin
   Diarrhea;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Adhesive Tape (Topical)
   Rash;
   Atenolol
   Weakness;
   Zestril (Oral) (Lisinopril)
   Aching;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-11**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.5
C (95.9
   HR: 60 (60 - 60) bpm
   BP: 123/49(68) {103/35(54) - 135/80(86)} mmHg
   RR: 18 (13 - 18) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
           Total In:
           1,165 mL
   PO:
           TF:
   IVF:
   815 mL
   Blood products:
   350 mL
   Total out:
                                                                      0 mL
                                                                    318 mL
   Urine:
   318 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, frail elderly F, kyphotic, alert
   and appropriate
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube MMM
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, nonfocal
   Labs / Radiology
   9.6 g/dL
   98 K/uL
   90 mg/dL
   1.1 mg/dL
   20 mEq/L
   5.3 mEq/L
   23 mg/dL
   110 mEq/L
   139 mEq/L
   28.5 %
   3.6 K/uL
        [image002.jpg]
                             [**2133-8-11**]  12:40 AM
                             [**2133-8-11**]  03:20 AM
   WBC
   3.6
   Hct
   23.9
   28.5
   Plt
   98
   Cr
   1.1
   Glucose
   90
   Other labs: PT / PTT / INR:13.4/29.8/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:36/0.6, Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Fluid analysis / Other labs: u/a [**12-11**] wbc, bacteria
   lft nl X mildly elevated alk phose
   Imaging: cxr--kyphotic, thoracic AA, clear lung fields
   Microbiology: urine cx pending
   Assessment and Plan
   [**Age over 90 **] yo F with MMP presents with hematuria in setting of recent urethral
   polypectomy.
   Agree with managing hematuria with close h/h monitoring, with
   transfusion goal > 24, maintaining ;large bore PIV access, holding
   plavix. Her hypotension resolved with IVF and blood and she remains HD
   stable.  Urology and uro gyn are following.  As her foley is clotted,
   will need larger foley or 3 way for continuous irrigation.  Keep NPO as
   may go to OR for more definitive management of probable
   post-polypectomy urethral bleed.  Will continue empiric antibx coverage
   for pos u/a given manipulation of GU system and high risk for
   bacteremia.  F/u cx data.  Will change maintenance IVF from NS  to LR
   given [**Female First Name (un) **].  Cr remains at baseline.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition: NPO for possible OR  today
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-11**] 12:36 AM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition :  ICU
   Total time spent:  40

2133-08-12 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- urogyn service saw pt in evening, HCT up to 33, Plts 87, so no
   urgent OR required
   -- output of bloody urine with small clots remained unchanged
   --2 units PRBs yesterday
   --3way bladder cath replaced yesterday
   Allergies:
   Amoxicillin
   Diarrhea;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Adhesive Tape (Topical)
   Rash;
   Atenolol
   Weakness;
   Zestril (Oral) (Lisinopril)
   Aching;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-12**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.5
C (95.9
   HR: 60 (60 - 60) bpm
   BP: 116/65(77) {106/35(54) - 169/65(90)} mmHg
   RR: 22 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 45.2 kg (admission): 44.5 kg
             Total In:
                                                                  3,295 mL
                                                                    710 mL
   PO:
             TF:
   IVF:
                                                                  2,245 mL
                                                                    710 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                  1,273 mL
                                                                    750 mL
   Urine:
                                                                  1,273 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,022 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   GEN: elderly female, frail appearing, but NAD
   HEENT: sclera anicteric, MMM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy,
   COR: RRR, II/VI SEM, normal S1 S2
   PULM: bibasilar crackles, otherwise CTAB, no W/R
   ABD: Soft, NT, ND, +BS
   EXT: No C/C/E
   NEURO: AO x 3
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   94 K/uL
   10.7 g/dL
   73 mg/dL
   0.7 mg/dL
   17 mEq/L
   3.8 mEq/L
   21 mg/dL
   114 mEq/L
   140 mEq/L
   31.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2133-8-11**]  12:40 AM
                             [**2133-8-11**]  03:20 AM
                             [**2133-8-11**]  11:25 AM
                             [**2133-8-11**]  08:04 PM
                             [**2133-8-11**]  11:08 PM
                             [**2133-8-12**]  03:38 AM
                             [**2133-8-12**]  05:20 AM
   WBC
   3.6
   4.6
   6.2
   5.3
   Hct
   23.9
   28.5
   20.0
   33.1
   33.0
   31.9
   Plt
   98
   87
   87
   94
   Cr
   1.1
   0.8
   0.9
   0.7
   Glucose
   90
   92
   76
   73
   Other labs: PT / PTT / INR:12.7/28.8/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:36/0.6, D-dimer:[**Numeric Identifier 8947**] ng/mL, Fibrinogen:178 mg/dL, Albumin:2.9
   g/dL, Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   This is a [**Age over 90 **] year-old female with a multiple medical problems presents
   with hematuria
   .
   #. Anemia [**2-23**] acute blood loss: Pt with bleeding 7 days after
   polypectomy from urethra.  She started plavix 2 days prior to the
   bleeding. Speculum exam shows no bleeding from vagina or fistula. This
   bleeding is likely from the urethra or less likely bladder. She was
   seen by both urology and Urogyn. Foley was placed to tamponade. Pt
   received 2 units of PRBCs yesterday, appropriate increase in Hct
   Hemodynamically stable currently.
   - appreciate Urogyn input
   - appreciate urology input
   - recheck Hct q6h
   - cont foley for tamponade. Per urology can continue unless clots. Then
   manually irrigate clot and place larger foley
   - hold plavix
   - possible surgery will keep NPO.
   .
   #. Bacteruria: Pt with positve UA. Unclear as to whether this is true
   infection versus contamination after manipulation in ED. Pt without
   urinary complaints. No fever or WBC.  She did received cipro in the
   ED.  On cipro 500mg q24h. UCx from [**8-10**] (-).
   -cont cipro
   - will f/u UCx
   .
   #. Hypertension: pressures stable for now.  Cont home dose amlodipine
   .
   #. Chronic kidney disease (baseline 1.0-1.3): Pt returned to baseline
   of 1.3 after IVF.  Likely pre-renal given poor po intake.   She is
   currently at 0.7.
   - cont to trend
   - cont IVF
   - if worsens after IVF then urine lytes and renal u/s
   .
   #. Atrial fibrillation - The patient is not anticoagulated due  to a
   past subdural hematoma.  She is currently paced. Cont to monitor on
   tele.
   .
   #. Hypothyrodism: Graves' disease status post thyroidectomy and
   radiation. Stable, cont home levothyroxine
   ICU Care
   Nutrition: NPO for possible OR
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-12**] 01:25 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2133-08-12 11:59:00 Physician Attending Progress Note
Chief Complaint: hematuria/urethral bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  [**Age over 90 **] yo F with htn, a-fib, [**Doctor Last Name **] ds now hypothyroid,
   myelodysplastic syndrome, cri, presents with probable urethral bleed  7
   days after urethral polyp excision in context of restarting plavix.
   24 Hour Events:
   Transfused 2 units prbc yesterday.  h/h stable overnight.
   Foley cath replaced with CBI overnight for small clots and bloody
   return.  This am foley changed to larger catheter.
   Allergies:
   Amoxicillin
   Diarrhea;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Adhesive Tape (Topical)
   Rash;
   Atenolol
   Weakness;
   Zestril (Oral) (Lisinopril)
   Aching;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-12**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 60 (60 - 60) bpm
   BP: 107/41(59) {107/39(59) - 169/65(90)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 45.2 kg (admission): 44.5 kg
             Total In:
                                                                  3,295 mL
                                                                  1,180 mL
   PO:
             TF:
   IVF:
                                                                  2,245 mL
                                                                  1,180 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                  1,273 mL
                                                                    850 mL
   Urine:
                                                                  1,273 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,022 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  warm
   Neurologic: Attentive, Follows simple commands, alert and appropriate
   Labs / Radiology
   11.5 g/dL
   107 K/uL
   73 mg/dL
   0.7 mg/dL
   17 mEq/L
   3.8 mEq/L
   21 mg/dL
   114 mEq/L
   140 mEq/L
   33.6 %
   4.9 K/uL
        [image002.jpg]
                             [**2133-8-11**]  12:40 AM
                             [**2133-8-11**]  03:20 AM
                             [**2133-8-11**]  11:25 AM
                             [**2133-8-11**]  08:04 PM
                             [**2133-8-11**]  11:08 PM
                             [**2133-8-12**]  03:38 AM
                             [**2133-8-12**]  05:20 AM
                             [**2133-8-12**]  08:28 AM
   WBC
   3.6
   4.6
   6.2
   5.3
   4.9
   Hct
   23.9
   28.5
   20.0
   33.1
   33.0
   31.9
   33.6
   Plt
   98
   87
   87
   94
   107
   Cr
   1.1
   0.8
   0.9
   0.7
   Glucose
   90
   92
   76
   73
   Other labs: PT / PTT / INR:12.7/28.8/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:36/0.6, D-dimer:[**Numeric Identifier 8947**] ng/mL, Fibrinogen:178 mg/dL, Albumin:2.9
   g/dL, Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Microbiology: u cx neg [**8-10**]
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   [**Age over 90 **] yo F with MMP presents with hematuria in setting of recent urethral
   polypectomy.
   Agree with continued management of hematuria with close h/h monitoring,
   with transfusion goal > 24, maintaining large bore PIV access, and
   holding plavix. Her hct has been stable overnight and she remains HD
   stable.  F/u additional urogyn inpt regarding plan for cytoscopy
   today.  She is NPO pending this decision.  Will continue empiric antibx
   coverage with cipro given manipulation of GU system and high risk for
   bacteremia, her u cx is neg.  Will continue maintenance IVFs with LR
   given [**Female First Name (un) **] until we can advance diet.  Cr remains at baseline.
   ICU: 2 PIVs, boots, H2B while NPO, Full code
   Remains in ICU for close monitoring.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-12**] 01:25 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition : ICU
   Total time spent: 35

2133-08-13 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- Patient had a cystoscopy with polypectomy in the late afternoon.
   Minimal blood loss reported. Used MAC anesthesia. Post-procedure,
   patient remained hypotensive with low UOP. Given LR fluid boluses and
   responded slightly. Transfused one unit of blood and increased BP. Her
   bicarb was 14, so drew an ABG.
   Allergies:
   Amoxicillin
   Diarrhea;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Adhesive Tape (Topical)
   Rash;
   Atenolol
   Weakness;
   Zestril (Oral) (Lisinopril)
   Aching;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 60 (60 - 62) bpm
   BP: 98/48(60) {83/35(50) - 130/59(75)} mmHg
   RR: 13 (11 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 50.7 kg (admission): 44.5 kg
             Total In:
                                                                  4,705 mL
                                                                  1,211 mL
   PO:
             TF:
   IVF:
                                                                  4,355 mL
                                                                  1,211 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,225 mL
                                                                    207 mL
   Urine:
                                                                  1,100 mL
                                                                    207 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,480 mL
                                                                  1,004 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.39/25/77.[**Numeric Identifier 143**]/14/-7
   Physical Examination
   GEN: elderly female, frail appearing, but NAD
   HEENT: sclera anicteric, MMM, OP Clear
   NECK: No JVD, no cervical lymphadenopathy,
   COR: RRR, II/VI SEM, normal S1 S2
   PULM: bibasilar crackles, otherwise CTAB, no W/R
   ABD: Soft, NT, ND, +BS
   1EXT: No C/C/E
   NEURO: AO x 3
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   96 K/uL
   10.7 g/dL
   68 mg/dL
   1.0 mg/dL
   13 mEq/L
   21 mg/dL
   111 mEq/L
   139 mEq/L
   31.4 %
   5.9 K/uL
        [image002.jpg] K: 4.1
                             [**2133-8-11**]  08:04 PM
                             [**2133-8-11**]  11:08 PM
                             [**2133-8-12**]  03:38 AM
                             [**2133-8-12**]  05:20 AM
                             [**2133-8-12**]  08:28 AM
                             [**2133-8-12**]  02:40 PM
                             [**2133-8-12**]  08:30 PM
                             [**2133-8-12**]  10:22 PM
                             [**2133-8-13**]  12:21 AM
                             [**2133-8-13**]  01:11 AM
   WBC
   4.6
   6.2
   5.3
   4.9
   4.9
   5.5
   Hct
   33.1
   33.0
   31.9
   33.6
   33.5
   27.7
   32.7
   Plt
   87
   87
   94
   107
   114
   94
   Cr
   0.8
   0.9
   0.7
   0.8
   TCO2
   16
   Glucose
   92
   76
   73
   72
   Other labs: PT / PTT / INR:12.7/28.8/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:36/0.6, D-dimer:[**Numeric Identifier 8947**] ng/mL, Fibrinogen:178 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Post OP Cystoscopy
 .H/O ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   This is a [**Age over 90 **] year-old female with a multiple medical problems presents
   with hematuria
   #Hypotension: Etiologies include hypovolemia, cardiogenic and
   medication side effect. Likely hypovolemia. Responded well to 1 unit of
   pRBCs. Also had LR fluid boluses.
   --Will continue maintenance LR until adequate PO and then allow PO
   diet. Give boluses PRN for goal UOP>25 and MAP>60.
   --hold amlodipine, home BP med
   #Anion gap metabolic acidosis with an underlying NAG metabolic
   acidosis: Likely high ketones due to NPO. Also received a lot of NS
   during cystoscopy causing NAG metabolic acidosis.
   --will stop fluids and transition to PO.
   --PM chemistries
   .
   #. Urethral polypectomy: Anemia [**2-23**] acute blood loss: Pt with bleeding
   7 days after polypectomy from urethra.  She started plavix 2 days prior
   to the bleeding. Speculum exam shows no bleeding from vagina or
   fistula. This bleeding is likely from the urethra or less likely
   bladder. She was seen by both urology and Urogyn. Foley was placed to
   tamponade. Pt received 1 unit of blood on [**8-12**] to help with
   hypotension. Hct stable.
   - appreciate Urogyn input
   - appreciate urology input
   - PM Hct
   .
   #. Bacteruria: Pt with positve UA. Unclear as to whether this is true
   infection versus contamination after manipulation in ED. Pt without
   urinary complaints. No fever or WBC.  She did received cipro in the
   ED.  On cipro 500mg q24h. UCx from [**8-10**] (-).
   -cont cipro (started [**8-11**])
   - will f/u UCx
   #. Chronic kidney disease (baseline 1.0-1.3): Pt returned to baseline
   of 1.3 after IVF.  Likely pre-renal given poor po intake.   She is
   currently at 0.7.
   - cont to trend
   - if worsens after IVF then urine lytes and renal u/s
   .
   #. Hypertension: pressures stable for now.  Cont home dose amlodipine
   .
   #. Atrial fibrillation - The patient is not anticoagulated due  to a
   past subdural hematoma.  She is currently paced. Cont to monitor on
   tele.
   .
   #. Hypothyrodism: Graves' disease status post thyroidectomy and
   radiation. Stable, cont home levothyroxine
   ICU Care
   Nutrition: Advance to clear as tolerated. Stop LR when good PO intake.
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-12**] 01:25 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2133-08-13 11:19:00 Physician Attending Progress Note
Chief Complaint: hematuria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo F with MMP presents with hematuria in setting of recent urethral
   polypectomy.
   24 Hour Events:
   hypotensive after procedure yesterday.  received LR bolus and 1 unit
   prbc with improvement.
   Allergies:
   Amoxicillin
   Diarrhea;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Adhesive Tape (Topical)
   Rash;
   Atenolol
   Weakness;
   Zestril (Oral) (Lisinopril)
   Aching;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2133-8-13**] 08:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2133-8-13**] 08:30 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-13**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.3
   HR: 60 (60 - 62) bpm
   BP: 101/45(58) {83/35(44) - 129/55(66)} mmHg
   RR: 8 (8 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 50.7 kg (admission): 44.5 kg
             Total In:
                                                                  4,705 mL
                                                                  1,708 mL
   PO:
             TF:
   IVF:
                                                                  4,355 mL
                                                                  1,708 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,225 mL
                                                                    291 mL
   Urine:
                                                                  1,100 mL
                                                                    291 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,480 mL
                                                                  1,417 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: 7.39/25/77.[**Numeric Identifier 143**]/13/-7
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : b/b, No(t)
   Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   96 K/uL
   68 mg/dL
   1.0 mg/dL
   13 mEq/L
   4.1 mEq/L
   21 mg/dL
   111 mEq/L
   139 mEq/L
   31.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2133-8-11**]  11:08 PM
                             [**2133-8-12**]  03:38 AM
                             [**2133-8-12**]  05:20 AM
                             [**2133-8-12**]  08:28 AM
                             [**2133-8-12**]  02:40 PM
                             [**2133-8-12**]  08:30 PM
                             [**2133-8-12**]  10:22 PM
                             [**2133-8-13**]  12:21 AM
                             [**2133-8-13**]  01:11 AM
                             [**2133-8-13**]  06:15 AM
   WBC
   6.2
   5.3
   4.9
   4.9
   5.5
   5.9
   Hct
   33.0
   31.9
   33.6
   33.5
   27.7
   32.7
   31.4
   Plt
   87
   94
   107
   114
   94
   96
   Cr
   0.8
   0.9
   0.7
   0.8
   1.0
   TCO2
   16
   Glucose
   92
   76
   73
   72
   68
   Other labs: PT / PTT / INR:12.7/28.8/1.1, ALT / AST:10/38, Alk Phos / T
   Bili:36/0.6, D-dimer:[**Numeric Identifier 8947**] ng/mL, Fibrinogen:178 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: ag 15
   lacate 1.3
   Imaging: cxr with increased b/b effusions
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Post OP Cystoscopy
 .H/O ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   [**Age over 90 **] yo F with MMP presents with hematuria in setting of recent urethral
   polypectomy. Hypotensive yesterday following cystoscopy, now
   normotensive with stable h/h.
   Her hematuria has resolved and her h/h remain stable following 1 unti
   prbc yesterday.  Her hypotension has resolved and was in setting of hct
   drop.  Sepsis less likey as she remains af no leukocytosis and has nl
   lactate.  Agree with continued close h/h monitoring, with transfusion
   goal > 24, maintaining large bore PIV access, and holding plavix. Will
   advance diet and ddecrease maintenace IVF.  She continues to do well
   from resp status but does appear a little wet on imaging. Her NAG
   acidosis has developed into gap acidosis with appropriate resp
   compenation on abg.  This is likey from being NPO and fluids.  F/u
   additional urogyn inpt regarding plan for cytoscopy  today.  Will
   continue empiric antibx coverage with cipro given manipulation of GU
   system and high risk for bacteremia, her u cx is neg.
    ICU: 2 PIVs, boots, H2B while NPO, Full code
   Stable for transfer to [**Female First Name (un) **] floor.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-12**] 01:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:  35